US06875784B2
Lithium butoxide solution (1.6 mL of a 1.0 M THF solution, 1.6 mmol) was added to a cooled (0° C.) solution of [4-(3-aza-bicyclo[3.1.0]hex-3-yl)-3,5-difluoro-phenyl]-carbamic acid benzyl ester (0.180 g, 0.52 mmol) in DMF (0.35 mL) and MeOH (0.042 mL, 1.05 mmol). Solid (S)-acetic acid 2-acetylamino-1-chloromethyl-ethyl ester (0.203 g, 1.05 mmol) was then added and the solution allowed to warm to room temperature and stirred for 20 h. Saturated aqueous ammonium chloride (0.8 mL) was added, along with 7 mL of H2O and 6 mL of brine. The solution was extracted with three portions of dichloromethane and the combined organic phases dried (MgSO4), filtered and concentrated. The crude product was purified by column chromatography (0-2% MeOH-DCM) to provide N-({(5S)-3-[4-(3-azabicyclo[3.1.0]hex-3-yl)-3,5-difluorophenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl) acetamide.

reactant | Lithium butoxide | [O-]CCCC.[Li+]
reactant | [4-(3-aza-bicyclo[3.1.0]hex-3-yl)-3,5-difluoro-phenyl]-carbamic acid benzyl ester | 0.52 mmol, 0.180 g | C(C1=CC=CC=C1)OC(NC1=CC(=C(C(=C1)F)N1CC2CC2C1)F)=O | C19H18F2N2O2
reactant | MeOH | 1.05 mmol, 0.042 mL | CO | CH4O
reactant | (S)-acetic acid 2-acetylamino-1-chloromethyl-ethyl ester | 1.05 mmol, 0.203 g | C(C)(=O)NC[C@@H](CCl)OC(C)=O | C7H12ClNO3
reactant | ammonium chloride | 0.8 mL | [Cl-].[NH4+]
solvent | DMF | 0.35 mL | CN(C)C=O | C3H7NO
solvent | brine | 6 mL | [Cl-].[Na+].O
solvent | H2O | 7 mL | O | H2O
solvent | THF | 1.0 M | C1CCOC1 | C4H8O
product | N-({(5S)-3-[4-(3-azabicyclo[3.1.0]hex-3-yl)-3,5-difluorophenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl) acetamide | C12CN(CC2C1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CNC(C)=O)=O)F | C17H19F2N3O3
